US06849657B2
To a solution of {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester (0.22 g, 0.6 mmol) in a mixture of 5 mL of methanol and 5 mL THF at room temperature under a nitrogen atmosphere was added an aqueous solution of lithium hydroxide (0.1 g, 2.4 mmol) in 3 mL of water. The reaction was stirred at 45° C. overnight, cooled to room temperature and treated with aqueous hydrochloric acid (1 M) until acidic. The residue was diluted with water (10 mL) and extracted with ethyl acetate. The organic solution was dried (brine, Na2SO4) and evaporated to yield {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid; ESMS m/Z M+, 339.

reactant | {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid ethyl ester | 0.6 mmol, 0.22 g | C(C)OC(COC\C=C/CN1[C@H](CCC1=O)\C=C\C(CCCCC)O)=O | C20H33NO5
reactant | lithium hydroxide | 2.4 mmol, 0.1 g | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | {(Z)-4-[(R)-2-((E)-3-hydroxy-oct-1-enyl)-5-oxo-pyrrolidin-1-yl]-but-2-enyloxy}-acetic acid | OC(/C=C/[C@@H]1N(C(CC1)=O)C\C=C/COCC(=O)O)CCCCC | C18H29NO5
